US05439899
Synthesis of Intermediate Compound D, 3-Bromo-t-butyldimethylsilyl-1-propanol
Diisopropylethylamine (25.488 g, 34.35 mL, 0.197 mol) was added dropwise to the solution of 3-bromopropanol (25 g, 0.18 mol), t-butyldimethylsilyl chloride (29.81 g, 0.197 mol), and DMAP (0.880 g, 7.2 mmol) in methylene chloride (250 mL) placed in a dry 500 mL three-necked, round-bottomed flask kept at ice bath and equipped with a Teflon-coated magnetic stirring bar, a 50 mL pressure-equalizing dropping funnel, a stopper, and a reflux condenser connected to an argon flow line. The reaction mixture was stirred at room temperature for 24 hours, washed successively with water (2×150 mL), dilute ammonium chloride solution (1×100 mL), and brine (2×150 mL). The organic solution was dried (sodium sulfate), the solvent was removed in vacuo, and the residual oil was distilled: bp 62°-64° C. (2 mm Hg); ; 1H-NMR (CDCl3, 200 MHz) δ3.71 (t, J=6.1 Hz, 2H), 3.46 (t, J= 7.0, 2H), 2.00 (m, 2H), 0.87 (s, 9H), 0.06 (s, 6H); CIMS m/e 253.

reactant | Diisopropylethylamine | 0.197 mol, 34.35 mL, 25.488 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-bromopropanol | 0.18 mol, 25 g | BrCCCO | C3H7BrO
reactant | t-butyldimethylsilyl chloride | 0.197 mol, 29.81 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
catalyst | DMAP | 7.2 mmol, 0.880 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromo-t-butyldimethylsilyl-1-propanol | BrCCC(O)[Si](C)(C)C(C)(C)C | C9H21BrOSi
